US08383629B2
A solution of (E)-1-(2,3-dihydro-1H-spiro[isoquinoline-4,4′-piperidine]-1′-yl)-3-(2-(trifluoromethyl)phenyl)prop-2-en-1-one HCl salt (40 mg, 0.09 mmol) in CH2Cl2 (4 mL) was treated with i-Pr2NEt (0.05 mL, 0.28 mmol) and MeSO2Cl (0.014 mL, 0.18 mmol). The mixture was stirred overnight at rt and applied to a 10-mL Chem-Elut cartridge that had been wetted with 5% aq HCl (6 mL). The cartridge was eluted with ether (20 mL). The eluate was concentrated and the residue was purified by prep HPLC to afford (E)-1-(2-(methylsulfonyl)-2,3-dihydro-1H-spiro[isoquinoline-4,4′-piperidine]-1′-yl)-3-(2-(trifluoromethyl)phenyl)prop-2-en-1-one (20 mg, 45%). 1H NMR (CDCl3) 1.77 (m, 1H), 1.88 (m, 1H), 2.04 (m, 1H), 2.13 (m, 1H), 2.92 (s, 3H), 3.00 (m, 1H), 3.23 (m, 1H), 3.47 (m, 1H), 3.90 (m, 1H), 4.02 (m, 1H), 4.37 (m, 1H), 4.59 (m, 1H), 4.78 (d, 1H), 6.82 (d, 1H), 7.05-7.75 (8H), 7.99 (d, 1H).

reactant | (E)-1-(2,3-dihydro-1H-spiro[isoquinoline-4,4′-piperidine]-1′-yl)-3-(2-(trifluoromethyl)phenyl)prop-2-en-1-one HCl salt | 0.09 mmol, 40 mg | Cl.N1(CCC2(CC1)CNCC1=CC=CC=C12)C(\C=C\C1=C(C=CC=C1)C(F)(F)F)=O
reactant | i-Pr2NEt | 0.28 mmol, 0.05 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | MeSO2Cl | 0.18 mmol, 0.014 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | HCl | 6 mL | Cl | ClH
solvent | CH2Cl2 | 4 mL | C(Cl)Cl | CH2Cl2
product | (E)-1-(2-(methylsulfonyl)-2,3-dihydro-1H-spiro[isoquinoline-4,4′-piperidine]-1′-yl)-3-(2-(trifluoromethyl)phenyl)prop-2-en-1-one | 20 mg, 45% | CS(=O)(=O)N1CC2=CC=CC=C2C2(CCN(CC2)C(\C=C\C2=C(C=CC=C2)C(F)(F)F)=O)C1 | C24H25F3N2O3S
